US09238640B2
Preparation of 2-(4-(4-(2,5-Dichlorothiophene-3-carbonyl)piperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a mixture of 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one (0.150 g, 0.41 mmol) and 2,5-dichlorothiophene-3-carbonyl chloride (0.088 g, 0.41 mmol) in CH2Cl2 was added Et3N (0.086 mL, 0.62 mmol) and the mixture stirred at room temperature under nitrogen for 30 minutes. The mixture was concentrated and purified by silica gel chromatography, eluting with 70% CH2Cl2/(92:7:1 CHCl3/MeOH/concentrated NH4OH) to 100% (92:7:1 CHCl3/MeOH/concentrated NH4OH), to afford the title compound as a light yellow solid (0.177 g, 79%). 1H NMR (300 MHz, DMSO-d6): δ 11.80 (s, 1H), 8.12 (d, J=9.0 Hz, 2H), 7.27 (s, 1H), 7.05 (d, J=9.0 Hz, 2H), 6.69 (d, J=2.3 Hz, 1H), 6.48 (d, J=2.3 Hz, 1H), 3.88 (s, 3H), 3.84 (s, 3H), 3.73-3.82 (m, 2H), 3.38-3.44 (m, 6H). APCI MS m/z 545 [M+H]+.

reactant | 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 0.41 mmol, 0.150 g | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCNCC1)=O | C20H22N4O3
reactant | 2,5-dichlorothiophene-3-carbonyl chloride | 0.41 mmol, 0.088 g | ClC=1SC(=CC1C(=O)Cl)Cl | C5HCl3OS
reactant | Et3N | 0.62 mmol, 0.086 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-(2,5-Dichlorothiophene-3-carbonyl)piperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.177 g, 79% | ClC=1SC(=CC1C(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)Cl | C25H22Cl2N4O4S
